US06638972B2
Preparation of 6-(Benzyloxy)-2,3-dihydrobenzofuran-2-carboxylic Acid
A solution of 6-(benzyloxy)benzofuran-2-carboxylic acid (3.4 g, 12.6 mmol) in aqueous NaOH (2.5N, 40 mL) is treated with 6% Na—Hg (20 g), stirred for 16 hr, allowed to stand without stirring and decanted. The supernatant is acidified with HCl and filtered. The filtercake is air-dried to afford the title product as a white solid, 2.2 g (64% yield) mp 118-119° C., identified by NMR and mass spectral analyses.

reactant | 6-(benzyloxy)benzofuran-2-carboxylic acid | 12.6 mmol, 3.4 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C16H12O4
solvent | NaOH | 2.5N, 40 mL | [OH-].[Na+]
product | 6-(Benzyloxy)-2,3-dihydrobenzofuran-2-carboxylic Acid | 64% yield | C(C1=CC=CC=C1)OC1=CC2=C(CC(O2)C(=O)O)C=C1 | C16H14O4
